US09107916B2
C. 2-[5-[[4-chloro-2-(2,2,2-trifluoroethoxy)phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared in 81% yield from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and [4-chloro-2-(2,2,2-trifluoroethoxy)phenyl]methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 4.43 (2H, q, J=8.0 Hz), 5.26 (2H, s), 5.79 (1H, d, J=1.6 Hz), 6.91 (1H, d, J=1.6 Hz), 7.10 (1H, dd, J=2.0 Hz, 8.4 Hz), 7.40 (1H, dd, J=1.2 Hz, 5.2 Hz), 7.44 (1H, d, J=8.0 Hz), 7.58 (1H, d, J=2.0 Hz), 8.04 (1H, s), 8.69 (1H, d, J=5.2 Hz). [M+H] Calc'd for C18H12ClF3N4O2, 409. Found, 409.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | [4-chloro-2-(2,2,2-trifluoroethoxy)phenyl]methanol | ClC1=CC(=C(C=C1)CO)OCC(F)(F)F | C9H8ClF3O2
product | 2-[5-[[4-chloro-2-(2,2,2-trifluoroethoxy)phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | 81% yield | ClC1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)OCC(F)(F)F | C18H12ClF3N4O2
